US07897774B2
N-(4-Chlorophenyl)-2-mercaptopyridine-3-carboxamide (Reference Compound No. 8-1)
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetrauroniumhexafluorophosphate (5.4 g, 14 mmol) was added to a suspension of 2-mercaptonicotinic acid (2.0 g, 13 mmol), 4-chloroaniline (1.7 g, 13 mmol) and N,N-diisopropylethylamine (4.5 mL, 26 mmol) in anhydrous N,N-dimethylformamide (20 mL) at room temperature, and the mixture was stirred for 20 hours. Water (20 mL) was added thereto, the precipitated solid was filtered off, and washed with ethyl acetate. The resulting solid was dried at 40° C. under reduced pressure to give 2.0 g of the title Reference Compound as a yellow solid (Yield: 59%)

reactant | 2-mercaptonicotinic acid | 13 mmol, 2.0 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | 4-chloroaniline | 13 mmol, 1.7 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | N,N-diisopropylethylamine | 26 mmol, 4.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-(4-Chlorophenyl)-2-mercaptopyridine-3-carboxamide | Yield: 59% | ClC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)S | C12H9ClN2OS
